US07361677B2
2-Benzyloxy-5-bromomethyl-1,3-dichloro-benzene (CAB02118)
Phosphorous tribromide (2 mL) was added to a solution of (4-benzyloxy-3,5-dichlorophenyl)-methanol (CAB02117, 5.50 g, 19.4 mmol) in dichloromethane (80 mL) at 0° C. The mixture was stirred at this temperature for 2 h, diluted with diethyl ether (150 mL), transferred into a separation funnel and washed with water (2×50 mL) and brine (50 mL). The organic layer was dried over magnesium sulphate and concentrated under reduced pressure. The residue was recrystallised from dichloromethane/hexane. 1H-NMR (400 MHz, CDCl3) δ=4.39 (s, 2H, —CH2Br), 5.05 (s, 2H, —CH2Ph), 7.37 (s, 2H), 7.38-7.44 (m, 3H), 7.54-7.58 (m, 2H). 13C-NMR (100 MHz, CDCl3) δ=31.48, 75.39, 128.73, 129.68, 129.70, 129.72, 130.06, 135.46, 136.27, 151.23.

reactant | Phosphorous tribromide | 2 mL | P(Br)(Br)Br | Br3P
reactant | (4-benzyloxy-3,5-dichlorophenyl)-methanol | 19.4 mmol, 5.50 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Cl)CO)Cl | C14H12Cl2O2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-Benzyloxy-5-bromomethyl-1,3-dichloro-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Cl)CBr)Cl | C14H11BrCl2O
